US06451973B1
16e) 1-[p-(4- Methylpiperazin-1-yl)phenyl]-4(S)-hydroxy-2-(tert-butyloxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane
100 ml of a 1N solution of K2CO3 are added dropwise to a solution of 5.8 g (10.0 mmol) of 1-[p-(4-methylpiperazin-1-yl)phenyl]-4(S)-hydroxy-2-(tert-butyloxycarbonyl)amino-5(S)-(trifluoroacetyl)amino-6-phenyl-2-azahexane in 100 ml of methanol and the whole is heated to boiling for 15 h. The mixture is partially concentrated by evaporation, after which methylene chloride and water are added; the water phase is separated off and extracted twice with methylene chloride, after which the organic phases are washed twice with water and brine, dried (Na2SO4) and concentrated by evaporation. Stirring the residue in hexane yields the title compound:

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[p-(4-methylpiperazin-1-yl)phenyl]-4(S)-hydroxy-2-(tert-butyloxycarbonyl)amino-5(S)-(trifluoroacetyl)amino-6-phenyl-2-azahexane | 10.0 mmol, 5.8 g | CN1CCN(CC1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)NC(C(F)(F)F)=O)O)NC(=O)OC(C)(C)C | C29H40F3N5O4
solvent | methanol | 100 ml | CO | CH4O
product | 1-[p-(4- Methylpiperazin-1-yl)phenyl]-4(S)-hydroxy-2-(tert-butyloxycarbonyl)amino-5(S)-amino-6-phenyl-2-azahexane | CN1CCN(CC1)C1=CC=C(C=C1)CN(C[C@@H]([C@H](CC1=CC=CC=C1)N)O)NC(=O)OC(C)(C)C | C27H41N5O3
